Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
dyspnea, aortic dissection
 
Major Surgical or Invasive Procedure:
___: Right heart catheterization
___: Left heart catheterization
 
History of Present Illness:
___ with hx of HTN, HLD, cardiomyopathy, CAD s/p CABG 
___ with stents placed ___ (LAD/RCA) and in ___ 
(LAD) who is admitted to the CCU s/p cardiac catheterization for 
closer monitoring due to ascending aortic dissection. 

Patient was seen by his out-patient cardiologist (Dr. ___ 
where he c/o worsening DOE. He denied chest pain or pressure, 
palpitations or dizziness. Exam did not show edema. Echo per 
report showed progressively lower LEVF as comparable to ___ 
echo. He was referred for cardiac cath to evaluate for CAD, and 
to explore cause of
diminishing EF.

On ___ patient underwent RHC which demonstrated RV systolic 
pressure 27, PA systolic pressures ___, mean PCW pressure 7. 
Mean RA pressure 4. 

She then underwent LHC which showed LMCA with 30% eccentric 
proximal lesion, patent LAD and RCA stents with mild disease.  
LHC was terminated due to development of an ascending aorta. 

The patient remained hemodynamically stable and was started on a 
nitro drip. A CTA showed (wet read) showed a dissection from the 
right coronary ostium to the proximal aortic arch involving the 
entire ascending aorta consistent with type A dissection of the 
ascending aorta.

CT surgery was consulted and reviewed imaging. They recommended 
serial CT scans given his hemodynamic instability.

Patient was transferred to the CCU, on a nitro drip and 
maintenance IVF. An arterial line was placed for adequate BP 
control. 

On arrival to the floor, he has no acute complaints, denies 
chest pain, SOB. 
 
Past Medical History:
1) MI 
2) CAD, s/p CABG ___ (___ to LCX)with stents ___ Stents to 
LAD/RCA ___
3) Dyslipidemia
4) Cardiomyopathy (LEVF 35% ___ 
5) Hypertension
6) Stomach Cancer s/p surgical treatment ___ 
7) Bilateral knee replacements ___
8) Dumping Syndrome
 
Social History:
___
Family History:
Premature coronary artery disease- Father deceased
___ of CHF, mother deceased ___ of CVA
 
 
Physical Exam:
======================
Initial Physical Exam:
======================
VS: T 97.9   HR 58  BP 123/70  RR 17  SpO2 96% 
Weight: 73.9 kg 
Tele: Sinus bradycardia 
GEN: Pt is lying in bed in NAD.  Pt appears his stated age. 
HEENT: PERRL. EOM grossly in tact.  
NECK:  
CV: bradycardic, systolic murmur, no rubs appreciated
LUNGS: Normal respiratory effort. Anterior and posterior lung 
fields clear to auscultation bilaterally. 
ABD: Bowel sounds present.  Minor tenderness in the RLQ, 
otherwise, non-tender, non-distended.  
EXT: Trace edema of the lower extremities bilaterally. 
NEURO: alert, oriented

=========================
DISCHARGE PHYSICAL EXAM:
=========================
VS: Tmax 99.0 Tcurr 98.6  | HR 71 | BP: 116/82 | RR: 18 | O2: 
95% on RA    
24h I/O: In 1540; Out 625
8h I/O:  Out 625
Weight:  75.7 kg
Tele:  SR, No alarms 
GEN: Pt is lying in bed in NAD.  Pt appears his stated age. 
HEENT:  EOM grossly in tact.  
CV: RRR, II/VI systolic murmur, no rubs, gallops or clicks 
appreciated
LUNGS: Normal respiratory effort. Anterior and posterior lung 
fields clear to auscultation bilaterally. Poor air entry at the 
bases bilaterally.
ABD: Bowel sounds present. Non-tender, non-distended.  
EXT: 1+ pitting ___ edema bilaterally. 2+ radial and DP pulses 
bilaterally.  
NEURO: alert, oriented. 
 
Pertinent Results:
============
INITIAL LABS
============
___ 07:59PM BLOOD WBC-5.4 RBC-4.11* Hgb-11.7* Hct-34.7* 
MCV-84 MCH-28.5 MCHC-33.7 RDW-14.1 RDWSD-43.2 Plt ___
___ 07:59PM BLOOD Neuts-70.6 Lymphs-18.1* Monos-8.8 Eos-1.9 
Baso-0.2 Im ___ AbsNeut-3.80 AbsLymp-0.97* AbsMono-0.47 
AbsEos-0.10 AbsBaso-0.01
___ 07:59PM BLOOD ___ PTT-30.3 ___
___ 07:59PM BLOOD Glucose-101* UreaN-23* Creat-1.1 Na-135 
K-3.6 Cl-99 HCO3-28 AnGap-12

===============
DISCHARAGE LABS
===============
___ 07:40AM BLOOD WBC-5.5 RBC-3.80* Hgb-10.9* Hct-32.7* 
MCV-86 MCH-28.7 MCHC-33.3 RDW-14.5 RDWSD-45.4 Plt ___
___ 07:26AM BLOOD Glucose-89 UreaN-15 Creat-1.1 Na-138 
K-4.2 Cl-104 HCO3-27 AnGap-11
___ 07:26AM BLOOD Calcium-8.6 Phos-2.9 Mg-2.0

==============
PERTINENT LABS
==============
___ 07:59PM BLOOD CK-MB-6 cTropnT-0.04*
___ 04:23AM BLOOD CK-MB-6 cTropnT-0.18*
___ 04:44AM BLOOD CK-MB-4 cTropnT-0.06*

========
IMAGING:
========
___ CARDIAC CATH: 
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is moderately diseased with a 30% eccentric proximal 
lesion.
* Left Anterior Descending
The LAD is patent with mild disease but patent prior stent.
The ___ Diagonal is patent.
* Circumflex
The Circumflex is occluded proximally at the site of prior 
stenting.
* Right Coronary Artery
The RCA is mildly diseased with patent prior stent. The Right 
PDA is patent. LIMA to LAD was not visualized due to premature 
termination of the case due to development of ascending aortic 
dissection.
**Intra-procedural Complications: Aortic dissection
Impressions:
-Normal right and left heart pressures
-Mild eccentric disease of proximal LM
-Patent LAD and RCA stents with mild disease present in both
-Intimal dissection of ascending aorta noted
Recommendations:
-CT scan now to evaluate aortic dissection per CT surg 
recommendation with observation in CCU overnight.
-Continued med RX for CAD
-Long term consider defib given low LVEF 25%.

___ IMPRESSION: 
1. Type A aortic dissection extending from the aortic root to 
approximately 2.6 cm below the origin of the right 
brachiocephalic artery as detailed above. No propagation to the 
brachiocephalic or common carotid arteries. Small amount of high 
density contrast seen within the false lumen likely represents 
residual contrast from the patient's recent cardiac 
catheterization. 
2. Focal outpouching at the left ventricular apex as detailed 
above, with wide mouth 2.9 cm aperture. This suggests a true 
ventricular aneurysm.  In 
addition, dependent hypodensity noted within the aneurysm is 
incompletely 
characterized, although focal thrombus is not excluded. 
Dedicated echocardiogram is recommended for further analysis of 
both these findings. 
3. Partially imaged 5.1 x 4.9 cm hypervascular left renal mass 
is concerning for renal cell carcinoma, and warrants further 
evaluation with dedicated MRI. 
4. 2.3 x 2.7 cm cystic lesion arising from the body of the 
pancreas is
incompletely characterized on current study, but should be 
further
characterized on the patient's above recommended dedicated MRI.  

RECOMMENDATION(S):  Abdominal MRI for further evaluation of the 
left renal 
mass and pancreatic cystic lesion detailed above. 

___ ECHOCARDIOGRAM: The left atrium is moderately dilated. 
Left ventricular wall thicknesses and cavity size are normal. 
There is moderate regional left ventricular systolic dysfunction 
with hypo to akinesis of the mid-distal anterior septum and 
apex. The remaining segments contract normally (LVEF = 35-40%). 
No masses or thrombi are seen in the left ventricle. Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). Right ventricular chamber size and free 
wall motion are normal. The ascending aorta is mildly dilated. 
The aortic arch is mildly dilated. The aortic valve leaflets (3) 
are mildly thickened. There is a minimally increased gradient 
consistent with minimal aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion.
IMPRESSION: Suboptimal image quality. Moderate regional systolic 
dysfunction c/w CAD. Increased LV filling pressure. Minimal 
aortic valve stenosis. Mild pulmonary artery systolic 
hypertension. 

___ CTA CHEST: IMPRESSION:  
1. Unchanged appearance of a type A aortic dissection. There is 
no extension to the great vessels or descending aorta. 
2. Unchanged focal outpouching at the left ventricular apex 
likely represents a ventricular aneurysm. A dependent 
hypodensity within the aneurysm is again incompletely 
characterized, and could be further assessed with 
echocardiogram. 
3. A partially imaged 5.3 cm heterogeneously enhancing mass 
arising from the medial left kidney is concerning for renal cell 
carcinoma. Dedicated MRI is recommended as indicated on the 
prior CT.
4. A 2.7 cm cystic lesion in the body of the pancreas is again 
incompletely
characterized, and can be further characterized by MRI. 
RECOMMENDATION(S):
1. Recommend MRI for further evaluation of left renal mass and 
pancreatic 
cystic lesion. 
2. Echocardiogram could be obtained for further evaluation of 
suspected left ventricular aneurysm. 

___ CTA CHEST: IMPRESSION:   
1. Type A dissection extending from the aortic root to the arch, 
unchanged 
from ___.  No evidence of extension into the common 
carotid or 
subclavian arteries.  No hemopericardium. 
2. Diffuse coronary calcifications. 
3. Trace bilateral nonhemorrhagic pleural effusions with 
adjacent atelectasis. 
4. Unchanged focal outpouching at the left ventricular apex 
likely reflecting an aneurysm. A dependent hypodensity within 
the aneurysm is again incompletely characterized and could be 
further assessed with echocardiogram. 
5. Unchanged cystic lesion in the body the pancreas. 

 
Brief Hospital Course:
___ y/o with hx of HTN, HLD, cardiomyopathy, CAD s/p CABG 
___ with stents placed ___ (LAD/RCA) and in ___ 
(LAD) who is admitted to the CCU s/p cardiac catheterization for 
closer monitoring due to ascending aortic dissection

# CORONARIES: ___ coronary angiography -- pLMCA 30% lesion, 
mild LAD disease with patent prior stent and D1, LCx proximal 
occlusion at site of prior stenting, and mildly diseased RCA 
with patent prior stent and PDA. LIMA to LAD was not visualized 
due to premature termination of the case due to development of 
ascending aortic dissection.
# PUMP: LVEF 35-40% with moderate regional left ventricular 
systolic dysfunction with hypo to akinesis of the mid-distal 
anterior septum and apex 
# RHYTHM: Sinus bradycardia vs normal sinus rhythm

#) ACUTE TYPE A AORTIC DISSECTION: The patient underwent a 
cardiac catheterization on ___ to evaluate his worsening 
dyspnea and reduced EF (30%) from previous echo.  The cardiac 
cath was notable for RV systolic pressure 27, PA systolic 
pressures ___, mean PCW pressure 7, mean RA pressure 4; LMCA 
with 30% eccentric proximal lesion, patent LAD and RCA stents 
with mild disease. The LHC was aborted during the procedure due 
to the development of an iatrogenic acute Type A ascending 
aortic dissection. The pt was started on a nitroglycerin drip to 
maintain systolic blood pressures around 120 mmHg and cardiac 
surgery was consulted.  A CTA was performed which was notable 
for a dissection extending from the right coronary ostium to the 
proximal aortic arch involving the entire ascending aorta.  The 
patient was transferred to the CCU for strict blood pressure 
control and monitoring of symptoms. Repeat CTA on ___ 
demonstrated the aortic dissection was stable and cardiac 
surgery recommended to continue medical management in favor of 
surgery. He had a ___ CTA of the aorta on ___ that was again 
stable. His nitroglycerin drip was able to be weaned off on ___ 
and the patient was transitioned to Labetalol 100 mg TID. 
Patient's home medications including lisinopril and HCTZ were 
held in light of serial CTAs and then modestly low blood 
pressures on labetalol. He will need to follow up with Dr. ___ 
in cardiothoracic surgery on ___ for repeat CTA. 

#) CAD: The patient has a history of coronary artery disease s/p 
CABG ___ (LIMA to LCX) with stents in ___ and stents to 
LAD/RCA in ___.  As stated above, the cardiac cath performed on 
___ demonstrated patent LAD and RCA stents with mild disease 
present in both and known chronic LCx occlusion. The LIMA-LCx 
graft was not assessed at the time of cath. Cardiac enzymes were 
trended in light of the dissection extending into the RCA 
ostium, which peaked at CK MB 6, Trops 0.18 on ___. Patient was 
continued on ASA 81 mg; however, home Plavix was held due to 
potential surgical intervention if CTAs showed worsening 
dissection and a remote history of stents (last ___. The need 
to restart Plavix will need to be reassessed as an outpatient 
based upon ___. As stated above, labetolol was started in favor 
of carvedilol for better BP control while HCTZ and lisinopril 
were being held b/c of serial contrast loads. Consider starting 
ACEI/restarting carvedilol in place of labetalol as an 
outpatient.
 
#) Ischemic Cardiomyopathy/HFrEF: Prior LVEF 35%. Purpose of 
cardiac cath ___ was to determine etiology of this 
cardiomyopathy. TTE ___ with LEVF 35% to 40% with moderate 
regional left ventricular systolic dysfunction with hypo to 
akinesis of the mid-distal anterior septum and apex. 
Electrophysiology was consulted on ___ who stated that there 
was not an indication for ICD at this point given EF in 40% 
range and given his need for MRI to better evaluate kidney and 
pancreatic lesions found on CT scan. He will need to resume his 
ACEI and carvedilol for HFrEF as an outpatient. He was euvolemic 
at discharge with discharge weight of 75.7 kg. 

#) Incidental Renal mass and pancreatic cyst found on CT: CTA 
demonstrated a left renal lesion measuring 5.1 x 0.9 cm, highly 
concerning for renal cell carcinoma. This requires urgent 
outpatient MRI abdomen for follow up and possible biopsy. 
Additionally there was a 2.3 x 2.7 cm cystic lesion arising from 
the body of the pancreas that requires MRI characterization. 
Patient's PCP was updated regarding these findings on ___. The 
PCP ___ be forwarded CT results in addition to this discharge 
summary. 

#) Dyslipidemia: Patient was continued on his home crestor 20 mg 
throughout his visit. 

#) Hypertension: As stated above, the patient's home lisinopril 
and HCTZ were held because of serial contrast loads.  Systolic 
blood pressure was maintained around 120 in light of medical 
management of acute Type A dissection during the patient's stay 
in the CCU.
 
CHRONIC ISSUES: 
---------------
# Gout: Currently stable; home Indomethacin was not required 
during his stay. 

MEDICATION CHANGES:
-replaced carvedilol with labetalol
-stopped lisinopril and HCTZ (low BP)
-stopped clopidogrel (remote history of stents)

TRANSITIONAL ISSUES
[]f/u with Dr. ___ in CT surgery clinic ___ with repeat CTA
[]MRI abdomen to workup renal mass and pancreatic cystic lesion
[]restart ACEI inhibitor and change labetalol back to carvedilol 
for HFrEF as blood pressure tolerates
 
# Discharge weight: 75.7 kg
# Code: FULL
# Contact/HCP: ___ (son)- Phone ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Carvedilol 12.5 mg PO BID 
2. Lisinopril 40 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Rosuvastatin Calcium 20 mg PO DAILY 
7. Indomethacin XR 75 mg PO BID:PRN gout 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Rosuvastatin Calcium 20 mg PO DAILY 
3. Labetalol 100 mg PO TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Type A aortic dissection
#Chronic systolic congestive heart failure
#Left renal mass concerning for renal cell carcinoma
#Pancreatic cyst
#Coronary artery disease s/p CABG
#Anemia
#Thrombocytopenia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ with after developing a tear in 
the aorta (a "dissection") during your cardiac catheterization. 
This is a rare complication of the procedure. You had a series 
of CT scans of the chest and the dissection appeared stable, so 
we felt that surgery was not necessary to repair it. More 
specifically, it was felt that the risks of this surgery do not 
outweigh the benefits.

The scans incidentally showed both a 5.3 cm mass on the left 
kidney concerning for kidney cancer as well as a 2.3cm x 2.7cm 
cyst in the pancreas. These will need urgent evaluation with an 
MRI of the abdomen as an outpatient and likely biopsy to see if 
the growths are indeed cancer.

Make sure you follow up with your outpatient cardiologist and 
cardiac surgeons after discharge. You will need to have a repeat 
CT scan of the chest at that time. 

We changed a few of your blood pressure medications for the time 
being. Please follow your discharge medication list, knowing 
that in the future Dr. ___ your PCP may change your 
medications.
Thank you for letting us participate in your care,
Your ___ Care team

 
Followup Instructions:
___